US07585881B2
To a solution of 5-(3,5-difluorophenyl)-N,4-dimethyl-4H-1,2,4-triazol-3-amine (0.47 g, 2.10 mmol) in DMF (10 ml) at r.t. under nitrogen was added NaH (77 mg, 3.20 mmol).After stirring for 15 min. a solution of 1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl methanesulfonate (0.70 g, 2.30 mmol) in DMF 10 ml was added. After 3 h the mixture was diluted with sat. NH4Cl solution and then extracted with EA. The organic phase was washed with H2O and brine, dried and evaporated. Purification by silica gel chromatography using hex.:EA=1:1 afforded 400 mg of the racemic N-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl}-5-(3,5-difluorophenyl)-N,4-dimethyl-4H-1,2,4-triazol-3-amine, which was separated using prep. chiral HPLC on a Chiralpak AD column (hex./2-propanol 80/20 to 100% 2-propanol) to give 183 mg (21%) of the title compound which eluted last. 1H NMR: 1.68 (d, 3 H) 2.89 (s, 3 H) 3.62 (s, 3 H) 4.79 (q, 1 H) 6.80-6.90 (m, 1 H) 7.19 (d, 2 H) 7.40 (t, 1 H) 7.49 (d, 1 H) 7.94 (d, 1 H) 8.04 (s, 1 H)

reactant | 5-(3,5-difluorophenyl)-N,4-dimethyl-4H-1,2,4-triazol-3-amine | 2.10 mmol, 0.47 g | FC=1C=C(C=C(C1)F)C=1N(C(=NN1)NC)C | C10H10F2N4
reactant | NaH | 3.20 mmol, 77 mg | [H-].[Na+]
reactant | 1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl methanesulfonate | 2.30 mmol, 0.70 g | CS(=O)(=O)OC(C)C1=NOC(=N1)C1=CC(=CC=C1)Cl | C11H11ClN2O4S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | NH4Cl | [NH4+].[Cl-]
product | racemic N-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethyl}-5-(3,5-difluorophenyl)-N,4-dimethyl-4H-1,2,4-triazol-3-amine | 400 mg | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)N(C1=NN=C(N1C)C1=CC(=CC(=C1)F)F)C | C20H17ClF2N6O
